US05929085
(a) 2-Methyl-7-nitro-1-propyl-1,2,3,4-tetrahydroisoquinoline hydrochloride
A solution of 7-nitro-1-propyl-1,2,3,4-tetrahydroisoquinoline hydrochloride (2.50 g, 9.74 mmol) in formic acid (6.0 ml) and aqueous formaldehyde (9.0 ml) was heated at reflux for 1 h. The cooled solution was poured onto ice, made basic with concentrated ammonium hydroxide, and extracted twice with dichloromethane. The dried (magnesium sulfate) extracts were concentrated to give an oil which was taken up in ethanol and hydrochloric acid in ethanol was added until acidic. Since no precipitate formed on standing, the solvent was evaporated in vacuo and the residue was taken up in isopropanol (35 ml) and allowed to stand for several hours. The precipitate was collected to give the title compound (1.30 g, 49%) as an off-white solid, m.p. 198.5-200.5° C.

reactant | 7-nitro-1-propyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | 9.74 mmol, 2.50 g | Cl.[N+](=O)([O-])C1=CC=C2CCNC(C2=C1)CCC
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
reactant | formic acid | 6.0 ml | C(=O)O | CH2O2
solvent | formaldehyde | 9.0 ml | C=O | CH2O
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-7-nitro-1-propyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.30 g, 49% | Cl.CN1C(C2=CC(=CC=C2CC1)[N+](=O)[O-])CCC | InChI=1S/C13H18N2O2.ClH/c1-3-4-13-12-9-11(15(16)17)6-5-10(12)7-8-14(13)2;/h5-6,9,13H,3-4,7-8H2,1-2H3;1H
